US06900219B2
2-Aminothiazole (38 mg, 0.37 mmole) was dissolved in dry tetrahydrofuran (6.5 ml) followed by addition of triethylamine (77 mg, 0.76 mmole) and 4-t-butylbenzoyl chloride (151 mg, 0.76 mmole). The reaction was stirred overnight at room temperature, and then the solvent removed under reduced pressure. The residue was purified by reverse phase HPLC (water/acetonitrile gradient), giving [4-(tert-butyl)phenyl]-N-(1,3-thiazolin-2-yl)carboxamide. The product was characterized by HPLC-MS.

reactant | 2-Aminothiazole | 0.37 mmole, 38 mg | NC=1SC=CN1 | C3H4N2S
reactant | triethylamine | 0.76 mmole, 77 mg | C(C)N(CC)CC | C6H15N
reactant | 4-t-butylbenzoyl chloride | 0.76 mmole, 151 mg | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | tetrahydrofuran | 6.5 ml | O1CCCC1 | C4H8O
product | [4-(tert-butyl)phenyl]-N-(1,3-thiazolin-2-yl)carboxamide | C(C)(C)(C)C1=CC=C(C=C1)C(=O)NC=1SCCN1 | C14H18N2OS
